US06503937B1
A) 3-(7-tert-Butyl-2-oxo-2,3-dihydro-benzofuran-5-yl)-propionic acid
66.7 g (0.3 mol) of 3-(3-tert-butyl-4-hydroxy-phenyl)-propionic acid (prepared analogously to the method described in JP-A2-63/227542) in 58 g (0.4 mol) of aqueous glyoxal solution (40% by weight) and 3 ml of hydrochloric acid (32% by weight) are heated at reflux in 200 ml of acetic acid for 6 hours. The mixture is then poured into 600 ml of ice-water and the precipitate is filtered off. The filter residue is washed with water and then dried at 60° C. g. Recrystallisation from toluene results in 54.3 g (69% of theory) of 3-(7-tert-butyl-2-oxo-2,3-dihydro-benzofuran-5-yl)-propionic acid. Melting point 167-169° C.

reactant | 3-(3-tert-butyl-4-hydroxy-phenyl)-propionic acid | 0.3 mol, 66.7 g | C(C)(C)(C)C=1C=C(C=CC1O)CCC(=O)O | C13H18O3
reactant | glyoxal | 0.4 mol, 58 g | C(=O)C=O | C2H2O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(7-tert-Butyl-2-oxo-2,3-dihydro-benzofuran-5-yl)-propionic acid | C(C)(C)(C)C1=CC(=CC=2CC(OC21)=O)CCC(=O)O | C15H18O4
